US05578622
Synthesis of 3-(3-iodo-2-propynyloxy)-4-cyano-5-difluoromethylthioisothiazole (compound No. 12)
2.4 Grams of 3-(2-propynyloxy)-4-cyano-5-methylsulfonylisothiazole was dissolved in 50 ml of dioxane, a solution of 2 g of potassium hydrosulfide in 5 ml of water was added thereto, and then the reaction solution was stirred for 10 minutes. Thereafter, 20 g of 30% KOH was added, and chlorodifluoromethane was blown into the reaction solution for 30 minutes at room temperature with stirring. Water was added to the reaction solution, which was then extracted with ethyl acetate. The extract was washed with water, dried and concentrated under reduced pressure to obtain 2.2 g of the crude crystal of 3-(2-propynyloxy)-4-cyano-5-difluoromethylthioisothiazole. This product was dissolved in 20 ml of DMF, 4.5 g of iodine and 3.0 g of potassium iodide were added thereto with stirring, and then 7 g of 10% KOH was added dropwise with ice-cooling. After addition, the temperature of the reaction solution was returned to room temperature, and the reaction solution was stirred for 1 hour. Water was added to the reaction solution, which was then extracted with ethyl acetate. The extract was washed with water, dried and concentrated under reduced pressure to obtain crude crystals. The crude crystals were recrystallized from ether to obtain 2.9 g of crystals having a melting point of 106° to 107° C. (yield 80%).

reactant | 3-(2-propynyloxy)-4-cyano-5-methylsulfonylisothiazole | C(C#C)OC1=NSC(=C1C#N)S(=O)(=O)C | C8H6N2O3S2
reactant | potassium hydrosulfide | 2 g | [SH-].[K+]
reactant | KOH | 20 g | [OH-].[K+]
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
reactant | iodine | 4.5 g | II | I2
reactant | potassium iodide | 3.0 g | [I-].[K+]
reactant | KOH | 7 g | [OH-].[K+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-(3-iodo-2-propynyloxy)-4-cyano-5-difluoromethylthioisothiazole | 2.9 g, yield 80% | IC#CCOC1=NSC(=C1C#N)SC(F)F | C8H3F2IN2OS2
